Klon Centaur Gold Edition
* Bill Finnegan, 1994 — faithful circuit model
* Copyright (c) 2026 Melange Contributors
* License: MIT OR Apache-2.0
*
* SIGNAL PATH:
*   Input -> Buffer (U1A) -> splits into 3 parallel paths:
*     1. Gain (U1B) -> Ge clipping (D2/D3) ----\
*     2. Feedforward 1 (clean bass, always on) --+--> Summing (U2A) -> Tone (U2B) -> Output
*     3. Feedforward 2 (clean variable, ganged) -/
*
* POWER: VCC=9V (U1), V2+=18V (U2+), V-=-9V (U2-), VB+=4.5V (bias)
* NONLINEAR: 2x 1N34A germanium diodes, shunt to VB+ (M=2)
* POTS: Gain (100kB dual-gang), Treble (10k wiper), Output (10k wiper)
*
* Key innovation: dual-ganged pot crossfades clean/clipped signal.
* At low gain: mostly clean (transparent). At high gain: mostly clipped.
* 27V headroom on U2 (charge pump) prevents post-clipping compression.

* --- Device Models ---
.model TL072_9V OA(AOL=200000 ROUT=50 GBW=3MEG VCC=9 VEE=0)
.model TL072_27V OA(AOL=200000 ROUT=50 GBW=3MEG VCC=18 VEE=-9)
.model D1N34A D(IS=2.6e-6 N=1.6 RS=7)

* --- Power Supply ---
* Charge pump modeled as ideal DC sources
Vcc vcc 0 DC 9
V2p v2p 0 DC 18
Vneg vneg 0 DC -9
Vbias vbias 0 DC 4.5

* ============================================================
* INPUT BUFFER (U1A — unity-gain follower)
* Guitar -> R1 (ESD) -> C1 (DC block) -> U1A(+)
* R2 biases input to VB+ (4.5V)
* ============================================================
R1 in buf_ac 10k
C1 buf_ac buf_in 100n
R2 buf_in vbias 1MEG
U1A buf_in buf_out buf_out TL072_9V

* ============================================================
* GAIN STAGE (U1B — non-inverting amp, bandpass ~1kHz)
* Gain = 1 + R12 / (R11 + R_gain + R3)
*   Min gain (R_gain=100k): 4.6x (13 dB)
*   Max gain (R_gain=0):   25.8x (28 dB)
* C7/R11 HP at ~130 Hz, C8/R12 LP at ~970 Hz -> mid hump
* ============================================================
C3 buf_out gain_in 100n

U1B gain_in gain_inv gain_out TL072_9V

* Feedback: R12 || C8 from output to inverting input
R12 gain_out gain_inv 422k
C8 gain_out gain_inv 390p

* Ground leg: R11 || C7 -> R_gain (pot) -> R3 -> VB+
R11 gain_inv gain_gnd 15k
C7 gain_inv gain_gnd 82n
R_gain gain_gnd gain_r3 100k
R3 gain_r3 vbias 2k

* Input-to-ground coupling: C5 || R6 (frequency shaping)
C5 gain_in gain_gnd 68n
R6 gain_in gain_gnd 10k

* ============================================================
* CLIPPING STAGE (D2/D3 — shunt germanium to VB+)
* Diodes are anti-parallel, shunt topology (NOT feedback).
* At low gain: diodes inactive, clipping from op-amp rails.
* At high gain: germanium soft knee engages (~0.3V Vf).
* R16 provides DC bias path to VB+.
* ============================================================
C9 gain_out clip_ac 1u
R13 clip_ac diode_jct 1k
D2 diode_jct vbias D1N34A
D3 vbias diode_jct D1N34A
R16 diode_jct vbias 47k
C10 diode_jct sum_inv 1u

* ============================================================
* FEEDFORWARD 1 (clean bass — always on)
* LP filter: R7 + C16 to VB+, fc ~ 106 Hz
* Preserves clean low end regardless of gain setting.
* ============================================================
R7 gain_in ff1_jct 1.5k
C16 ff1_jct vbias 1u
R19 ff1_jct sum_inv 15k

* ============================================================
* FEEDFORWARD 2 (clean variable — gain-dependent)
* R5 || C4 input coupling, R8 series, R_blend (ganged pot).
* GAIN2 inversely tracks GAIN1: high gain -> high R_blend
* (attenuates clean), low gain -> low R_blend (passes clean).
* Multi-branch filtering: R9/C6, R15/C11 shunts to VB+;
* R17 || (R18+C12) to summing junction.
* ============================================================
R5 gain_in ff2_pre 5.1k
C4 gain_in ff2_pre 68n
R8 ff2_pre ff2_r8 1.5k
R_blend ff2_r8 ff2_post 100k

* Shunt LP filters to VB+
R9 ff2_post ff2_r9 1k
C6 ff2_r9 vbias 390n
R15 ff2_post ff2_r15 22k
C11 ff2_r15 vbias 2.2n

* Parallel paths to summing junction
R17 ff2_post sum_inv 27k
R18 ff2_post ff2_c12 12k
C12 ff2_c12 sum_inv 27n

* ============================================================
* SUMMING AMPLIFIER (U2A — inverting summer)
* Combines clipped + FF1 + FF2 paths.
* R20 || C13 feedback, LP at ~495 Hz.
* Powered by -9V/+18V (27V headroom — never clips).
* ============================================================
U2A vbias sum_inv sum_out TL072_27V
R20 sum_out sum_inv 392k
C13 sum_out sum_inv 820p

* ============================================================
* TONE CONTROL (U2B — active high-shelf)
* R22 input, R24 feedback (both 100k -> unity at DC).
* C14 + treble wiper creates variable high-shelf:
*   CW -> R21 -> sum_out (input): boosts treble
*   CCW -> R23 -> tone_out (output): cuts treble
* Shelf fc ~ 408 Hz, range -8 dB to +18 dB.
* ============================================================
R22 sum_out tone_inv 100k
R24 tone_out tone_inv 100k
C14 tone_inv tone_w 3.9n
R_treble_cw tone_r21 tone_w 5k
R_treble_ccw tone_w tone_r23 5k
R21 sum_out tone_r21 1.8k
R23 tone_r23 tone_out 4.7k
U2B vbias tone_inv tone_out TL072_27V

* ============================================================
* OUTPUT STAGE
* C15 DC block, R25 series, OUTPUT wiper pot, R28 pulldown.
* ============================================================
C15 tone_out out_ac 4.7u
R25 out_ac out_top 560
R_out_cw out_top out 5k
R_out_ccw out 0 5k
R28 out 0 100k

* --- Controls ---
.pot R_gain 100 100k
.pot R_blend 100 100k
.wiper R_treble_cw R_treble_ccw 10k 0.5 "Treble"
.wiper R_out_cw R_out_ccw 10k 0.85 "Output"
.gang "Gain" R_gain !R_blend

.END
